US06043341
4-Bromobenzyl methylphosphonic Acid
A solution containing 4-bromobenzyl alcohol (49.4 g, 0.26 mol) and Et3N (39 mL, 0.28 mol) in CH2Cl2 (150 mL) was slowly added to a cold (0° C.) solution of methyl phosphonic dichloride (36.96 g, 0.28 mol) in 200 mL of CH2Cl2, under N2. When the reaction was substantially complete, as determined by HPLC, an additional 39 mL of Et3N was added, followed by 20 mL of H2O resulting in an exotherm up to 27° C., followed by an additional 30 mL of H2O. According to HPLC, the reaction mixture contained 55% of the compound of Preparation 6, 4.5% of the desired compound and 20% of the compound of Preparation 1A. The reaction mixture was transferred to a separatory funnel and washed with 1N HCl (2×150 mL). The organic layer was combined with 150 mL of 2N NaOH and 50 mL of H2O, stirred overnight to hydrolyze the compound of Preparation 6 to the desired compound and then separated. The aqueous layer was washed with CH2Cl2 (2×150 mL), acidified with 22 mL of 12N HCl and then extracted with CH2Cl2 (400 mL). The organic extract was dried over Na2SO4, filtered and then dried in vacuo to provide 53.74 g of a white solid which was suspended in EtOAc (110 mL), stirred vigorously for 3 h, isolated by filtration and then dried in vacuo (at 50° C.).

reactant | 4-bromobenzyl alcohol | 0.26 mol, 49.4 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | Et3N | 0.28 mol, 39 mL | CCN(CC)CC | C6H15N
reactant | methyl phosphonic dichloride | 0.28 mol, 36.96 g | CP(=O)(Cl)Cl | CH3Cl2OP
reactant | Et3N | 39 mL | CCN(CC)CC | C6H15N
reactant | H2O | 20 mL | O | H2O
reactant | H2O | 30 mL | O | H2O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromobenzyl methylphosphonic Acid | 4.5% | BrC1=CC=C(COP(O)(=O)C)C=C1 | C8H10BrO3P
